US04927926
A mixture of 0.6 g (2.1 mmoles) of 1-cyclopropyl-1,4-dihydro-6,7,8-trifluoro-4-oxo-3-quinolinecarboxylic acid with 0.25 g (4.4 mmoles) of azetidine, 8 ml of pyridine and 1 ml of triethylamine is maintained at 110°-120° C. for 2 hours in a closed vessel. After cooling, evaporating under vacuum, filtering and washing, 0.6 g (88%) of 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(1-azetidinyl)-4-oxo-3-quinolinecarboxylic acid are obtained, melting at 289°-93° C.

reactant | 1-cyclopropyl-1,4-dihydro-6,7,8-trifluoro-4-oxo-3-quinolinecarboxylic acid | 2.1 mmoles, 0.6 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | azetidine | 4.4 mmoles, 0.25 g | N1CCC1 | C3H7N
reactant | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(1-azetidinyl)-4-oxo-3-quinolinecarboxylic acid | 0.6 g, 88% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCC1)F)=O)C(=O)O | C16H14F2N2O3
